US07524847B2
Allyl-(3-nitropyridin-4-yl)amine
Allyl amine (40 mL) was added to a solution of 4-ethoxy-3-nitropyridine hydrochloride [CAS No. 94602-04-7] (18.0 g) in ethanol (400 mL), and this was heated under reflux for eight hours. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography. The fraction eluted by ethyl acetate-hexane (1:1) gave the title compound (13.6 g).

reactant | Allyl amine | 40 mL | C(C=C)N | C3H7N
reactant | 4-ethoxy-3-nitropyridine hydrochloride | Cl.C(C)OC1=C(C=NC=C1)[N+](=O)[O-]
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | Allyl-(3-nitropyridin-4-yl)amine | 13.6 g | C(C=C)NC1=C(C=NC=C1)[N+](=O)[O-] | C8H9N3O2
